US05863947
A mixture of 4-cyano-2-fluorobenzaldehyde (11.73 g, 78.7 mmol) and potassium carbonate (14.12 g, 102.3 mmol) was dissolved in dry dimethylformamide (35 ml). To this was added water (6.63 ml, 368.5 mmol). The resulting solution was heated to 90° C. with stirring. A further equivalent of water (1.42 ml) was added after 2 hours, then a further two equivalents of water (2.84 ml) 1 hour later. The resulting solution was left overnight. After 24 hours a further 2 equivalents of water (2.84 ml) was added, then heated for a further 2 hours at 90° C. The cooled solution was diluted with water to form a murky yellow solution. The solid precipitate was filtered. The remaining yellow filtrate was acidified with concentrated hydrochloric acid to produce a yellow solid. This was filtered, then dried at 40° C. overnight to give 4-cyano-2-hydroxybenzaldehyde as a yellow solid.

reactant | 4-cyano-2-fluorobenzaldehyde | 78.7 mmol, 11.73 g | C(#N)C1=CC(=C(C=O)C=C1)F | C8H4FNO
reactant | potassium carbonate | 102.3 mmol, 14.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | water | 2.84 ml, 2 equivalents | O | H2O
solvent | water | 2.84 ml, two equivalents | O | H2O
solvent | water | 1.42 ml | O | H2O
solvent | water | 368.5 mmol, 6.63 ml | O | H2O
product | 4-cyano-2-hydroxybenzaldehyde | C(#N)C1=CC(=C(C=O)C=C1)O | C8H5NO2
